US07067534B1
N-(3-{1-[(1,9-DIMETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R, without HOAc, using 1,9-dimethyl-9H-carbazole-3-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 8.05–6.77 (m, 10H) 5.20–5.12 (m, 1H), 4.04 (s, 3H) 3.93 (s, 2H), 3.34–3.24 (m, 2H), 2.79 (s, 3H), 2.56–2.38 (m, 2H), 2.38–2.26 (m, 2H), 2.08–1.88 (m, 2H), 1.82–1.70 (m, 2H), 1.16 (d, 6H, J=6.8 Hz); ESMS m/e: 454.2 (M+H)+.

reactant | 1,9-dimethyl-9H-carbazole-3-carbaldehyde | CC1=CC(=CC=2C3=CC=CC=C3N(C12)C)C=O | C15H13NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
solvent | HOAc | CC(=O)O | C2H4O2
product | N-(3-{1-[(1,9-DIMETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CC1=CC(=CC=2C3=CC=CC=C3N(C12)C)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C30H35N3O
